US07790741B2
Step A: 6-(2,4-Difluorophenyl)imidazo[2,1-b]thiazole
2-Bromo-2′,4′-difluoroacetophenone (7.50 g, 31.9 mmol) and thiazol-2-amine (3.20 g, 31.9 mmol) were added to EtOH (85 mL) and then heated to about 85° C. in an oil bath for about 16 h. The mixture was cooled in ice water, filtered, and washed with EtOH. Drying under vacuum at about 60° C. provided the title compound (5.84 g, 77%): LC/MS (Table 1, Method a) Rt, =2.68 min; MS m/z: 237.3 (M+H)+.

reactant | 2-Bromo-2′,4′-difluoroacetophenone | 31.9 mmol, 7.50 g | BrCC(=O)C1=C(C=C(C=C1)F)F | C8H5BrF2O
reactant | thiazol-2-amine | 31.9 mmol, 3.20 g | S1C(=NC=C1)N | C3H4N2S
solvent | EtOH | 85 mL | CCO | C2H6O
product | 6-(2,4-Difluorophenyl)imidazo[2,1-b]thiazole | 5.84 g, 77% | FC1=C(C=CC(=C1)F)C=1N=C2SC=CN2C1 | C11H6F2N2S
